US04031246
4-[7-(4-Hydroxyphenoxy)heptyl]-3,5-heptanedione
By a similar hydrogenolysis procedure 4-[4-(3,4-dibenzyloxyphenoxy)butyl]-3,5-heptanedione can be coverted to 4-[4-(3,4-dihydroxyphenoxy)butyl]-3,5-heptanedione [I; Ar is 3,4-(HO)2C6H3, Alk is CH2CH2CH2CH2, R and R' are CH3CH2CO].

reactant | 4-[4-(3,4-dibenzyloxyphenoxy)butyl]-3,5-heptanedione | C(C1=CC=CC=C1)OC=1C=C(OCCCCC(C(CC)=O)C(CC)=O)C=CC1OCC1=CC=CC=C1 | C31H36O5
reactant | 4-[4-(3,4-dihydroxyphenoxy)butyl]-3,5-heptanedione | OC=1C=C(OCCCCC(C(CC)=O)C(CC)=O)C=CC1O | C17H24O5
product | 4-[7-(4-Hydroxyphenoxy)heptyl]-3,5-heptanedione | OC1=CC=C(OCCCCCCCC(C(CC)=O)C(CC)=O)C=C1 | C20H30O4
